US04771045
To a solution of 0.477 g of (3R,4S)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone in 5 ml of ethanol is added 1 ml of 25 to 28% aqueous ammonia and the reaction mixture is allowed to stand at room temperature for 2 days. The solvent is then distilled off under reduced pressure and 20 ml of ethyl acetate is added to the residue. The mixture is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography using ethyl acetate-chloroform-methanol (8:8:1) to give 0.173 g of (3R,4S)-4-[[(aminocarbonyl)methyl]thio]-3-tritylamino-2-azetidinone.

reactant | (3R,4S)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone | 0.477 g | COC(=O)CS[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O3S
reactant | ammonia | 1 ml | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (3R,4S)-4-[[(aminocarbonyl)methyl]thio]-3-tritylamino-2-azetidinone | 0.173 g | NC(=O)CS[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O2S
